US05656648
A suspension of 10 g of 4-ethylresorcinol in 20 ml of boron trifluoride etherate is cooled to +4° C., and 11.7 g of propionic anhydride are added dropwise. The reaction mixture is heated to 75° C. for 6 hours and poured, after cooling, into a mixture of water and ice. The resulting mixture is left stirring for 2 hours, the precipitate formed is filtered off, washed with water and taken up in AcOEt, the organic phase is washed with water and dried over sodium sulphate and the solvent is evaporated off under vacuum. The residue is chromatographed on silica, eluting with DCM and then with a DCM/AcOEt (90:10; v/v) mixture. 9.32 g of 1-(5-ethyl-2,4-dihydroxyphenyl)-1-propanone, m.p.=74°-75° C., are obtained.

reactant | 4-ethylresorcinol | 10 g | C(C)C1=C(C=C(O)C=C1)O | C8H10O2
reactant | propionic anhydride | 11.7 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | O | H2O
solvent | boron trifluoride etherate | 20 ml | B(F)(F)F.CCOCC
product | 1-(5-ethyl-2,4-dihydroxyphenyl)-1-propanone | 9.32 g | C(C)C=1C(=CC(=C(C1)C(CC)=O)O)O | C11H14O3
